US06639068B1
2.03 g of sodium 2-ethylhexanoate was dissolved in a mixture of 12.5 ml of N,N-dimethylacetamide and 50 ml of methanol, 5.0 g of cefpodoxime (7-[2-(2-amino-4-thiazolyl)-(Z)-2-(methoxyimino)acetamido]-3-methoxymethyl -3-cephem-4-carboxylic acid) was added thereto, and the mixture was stirred at room temperature for 30 minutes. Then, methanol was removed under a reduced pressure and 50 ml of acetone was added thereto. The solution was stirred for 30 minutes and filtered. The filtered solid was washed with 50 ml of acetone and then with 30 ml of isopropyl ether, and vacuum-dried at room temperature to give 4.98 g of pale yellow cefpodoxime sodium salt (yield: 95%).

reactant | sodium 2-ethylhexanoate | 2.03 g | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | cefpodoxime | 5.0 g | COCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)O | C15H17N5O6S2
solvent | N,N-dimethylacetamide | 12.5 ml | CN(C(C)=O)C | C4H9NO
solvent | methanol | 50 ml | CO | CH4O
product | cefpodoxime sodium salt | 4.98 g, yield: 95% | COCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)[O-].[Na+] | InChI=1S/C15H17N5O6S2.Na/c1-25-3-6-4-27-13-9(12(22)20(13)10(6)14(23)24)18-11(21)8(19-26-2)7-5-28-15(16)17-7;/h5,9,13H,3-4H2,1-2H3,(H2,16,17)(H,18,21)(H,23,24);/q;+1/p-1/b19-8-;/t9-,13-;/m1./s1
